US05990101
A 6 ml portion of anhydrous acetic acid was added to a mixed solution of 10 ml of dichloromethane and 20 ml of pyridine containing 2.17 g of 2-(N-t-butoxycarbonylamino)methyl-5-hydroxymethylthiazole, and the mixture was then allowed to stand at room temperature for 17 hours. Under reduced pressure, the solvent was distilled off, and the resulting residue was dissolved in 120 ml of chloroform. The solution was washed once with water and twice with a 10% saline solution, dried over anhydrous sodium sulfate and then filtered, and the solvent was evaporated under reduced pressure to obtain 2.47 g of 5-acetoxymethyl-2-(N-t-butoxycarbonylamino)methylthiazole.

reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | 2-(N-t-butoxycarbonylamino)methyl-5-hydroxymethylthiazole | C(C)(C)(C)OC(=O)NCC=1SC(=CN1)CO | C10H16N2O3S
solvent | pyridine | 20 ml, 2.17 g | N1=CC=CC=C1 | C5H5N
product | 5-acetoxymethyl-2-(N-t-butoxycarbonylamino)methylthiazole | 2.47 g | C(C)(=O)OCC1=CN=C(S1)CNC(=O)OC(C)(C)C | C12H18N2O4S
